US04182769
1-(N,N-Dimethylthiocarbamoyl)-4,5-diphenyl-2-(1,1,2,2-tetrafluoroethylthio)imidazole
To a solution of 5.0 g (0.014 mole) of 4,5-diphenyl-2-(1,1,2,2-tetrafluoroethylthio)imidazole in 50 ml of THF was added dropwise 15 ml of 1.6 M methyl lithium solution, followed by a solution of 5.5 g (0.045 mole) of dimethylthiocarbamoyl chloride in 25 ml THF. The reaction mixture was heated at reflux several hours, then concentrated by rotary evaporation. The residue was shaken with ether and 1 N hydrochloric acid. The ether layer was washed with 10% sodium bicarbonate solution, then dried and concentrated. The residue (7.8 g) was purified by chromatography on silica gel, eluting with toluene to give 0.8 g of product, mp 133°-133.5° (recrystallized from methyl cyclohexane).

reactant | 4,5-diphenyl-2-(1,1,2,2-tetrafluoroethylthio)imidazole | 0.014 mole, 5.0 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SC(C(F)F)(F)F | C17H12F4N2S
reactant | methyl lithium | 1.6 M, 15 ml | C[Li]
reactant | dimethylthiocarbamoyl chloride | 0.045 mole, 5.5 g | CN(C(=S)Cl)C | C3H6ClNS
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 1-(N,N-Dimethylthiocarbamoyl)-4,5-diphenyl-2-(1,1,2,2-tetrafluoroethylthio)imidazole | CN(C(=S)N1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)SC(C(F)F)(F)F)C | C20H17F4N3S2
